US07129238B2
To a stirred solution of (RS)-{3-[(4-cyano-benzylcarbamoyl)-methoxy-methyl]-2,4-difluoro-phenyl}-carbamic acid tert-butyl ester (514 mg) at rt in dioxane (10 ml) under an argon atmosphere was added 4 M HCl solution in dioxane (6 ml). Stirring at rt was then continued for 3 h. The light yellow solution was concentrated. The solid residue was suspended in EtOAc and washed with 1 N NaOH. The organic layer was dried over MgSO4, filtered and concentrated. The crude product was purified by flash chromatography (cyclohexane=>cyclohexane/EtOAc 2:3) to give (RS)-2-(3-amino-2,6-difluoro-phenyl)-N-(4-cyano-benzyl)-2-methoxy-acetamide (215 mg) as an off-white solid. MS 332.3 ([M+H]+)

reactant | (RS)-{3-[(4-cyano-benzylcarbamoyl)-methoxy-methyl]-2,4-difluoro-phenyl}-carbamic acid tert-butyl ester | 514 mg | C(C)(C)(C)OC(NC1=C(C(=C(C=C1)F)C(OC)C(NCC1=CC=C(C=C1)C#N)=O)F)=O | C22H23F2N3O4
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | (RS)-2-(3-amino-2,6-difluoro-phenyl)-N-(4-cyano-benzyl)-2-methoxy-acetamide | 215 mg | NC=1C(=C(C(=CC1)F)C(C(=O)NCC1=CC=C(C=C1)C#N)OC)F | C17H15F2N3O2
